US08222246B2
f) 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid
6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (3.0 g, 8.0 mmol) in THF (20 mL), methanol (5.2 mL) and water (19 mL) was treated with lithium hydroxide monohydrate (678 mg, 16.0 mmol) for 8 h at room temperature. Hydrochloride acid (1 N, 25 mL) and water (200 mL) were added to the reaction mixture. The precipitate was filtered off and washed with water and ethyl acetate to afford the title compound (2.67 g, 93%) as a white solid. MS: m/e=359.0 [M−H]−.

reactant | 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 8.0 mmol, 3.0 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O5
reactant | lithium hydroxide monohydrate | 16.0 mmol, 678 mg | O.[OH-].[Li+]
reactant | Hydrochloride | 1 N, 25 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 5.2 mL | CO | CH4O
solvent | water | 19 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 2.67 g, 93% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13ClN2O5
